### PR TITLE
feat: bitblasting support for `BitVec.carry`

### PR DESCRIPTION
**Pull request by alexkeizer**
This PR adds two normalization lemmas to the `bv_normalize` simpset, which will enable `bv_decide` to reason about `BitVec.carry`: these lemmas are `BitVec.carry_eq_getLsbD_add_zeroExtend` and `BitVec.carry_width_eq_msb_add_zeroExtend`. In principle, the former is strictly more general than the latter (which is applicable only in the case `carry w x y _`, where `w` is the width of `x` and `y`). However, I choose to include the latter still, because asking for the final carry bit is particularly common, and it has a simpler rhs, which presumably means a faster bitblasted circuit. 

In the process of adding these lemmas, I also proved `carry_gt`, which (analogous to `getLsbD_ge`) says that asking for an out-of-range carry bit gives `false`. I didn't end up needing this lemma, but it seemed a useful addition to the API nonetheless, so I kept it around. The PR also adds a missing `Commutative` instance for Boolean xor (which *is* needed for the main result).

TODO (this PR is still WIP):
- [ ] write tests

### CODE REVIEW

File: src/Init/Data/BitVec/Bitblast.lean [hunk 1]
```diff
@@ -216,6 +216,21 @@ theorem carry_width {x y : BitVec w} :
     carry w x y c = decide (x.toNat + y.toNat + c.toNat ≥ 2^w) := by
   simp [carry]
 
+theorem carry_gt {x y : BitVec w} (h : w < i) : carry i x y c = false := by
```
Comment (bollu) [inline src/Init/Data/BitVec/Bitblast.lean:219]:
```suggestion
theorem carry_eq_false_of_lt {x y : BitVec w} (h : w < i) : carry i x y c = false := by
```

This should make the theorem way more searchable.

File: src/Init/Data/BitVec/Bitblast.lean [hunk 2]
```diff
@@ -216,6 +216,21 @@ theorem carry_width {x y : BitVec w} :
...
+  have : 2 ^ (w+1) ≤ 2 ^ i := Nat.pow_le_pow_of_le_right (by omega) (by omega)
+  simp [carry]
+  rw [Nat.mod_eq_of_lt (a:=x.toNat) (by omega),
+      Nat.mod_eq_of_lt (a:=y.toNat) (by omega)]
+  have := Bool.toNat_le c
+  omega
+
+theorem carry_setWidth_of_le (x y : BitVec w) (h : w ≤ w' := by omega) :
+    BitVec.carry i (x.setWidth w') (y.setWidth w') c = BitVec.carry i x y c := by
```
Comment (bollu) [inline src/Init/Data/BitVec/Bitblast.lean:228]:
```suggestion
theorem carry_setWidth_eq_carry_of_le {x y : BitVec w} (h : w ≤ w' := by omega) :
    BitVec.carry i (x.setWidth w') (y.setWidth w') c = BitVec.carry i x y c := by
```

I prefer the slightly longer name, since it tells me what I can expect the theorem to do!
